US04028089
The procedure described in Example 1 is repeated using, instead of 3,3-bis(methylthio)-2-cyanoacrylonitrile, an equivalent amount of 3,3-bis(methylthio)-2-cyanoacrylic acid propargyl ester in 100 ml. of propargyl alcohol and holding the mixture under reflux for 2 hours to obtain 2-benzoxazolinylidene-cyanoacetic acid propargyl ester of melting point 258°-259° C. (decomposition) (from acetone).

reactant | 3,3-bis(methylthio)-2-cyanoacrylonitrile | CSC(=C(C#N)C#N)SC | C6H6N2S2
reactant | 3,3-bis(methylthio)-2-cyanoacrylic acid propargyl ester | C(C#C)OC(C(=C(SC)SC)C#N)=O | C9H9NO2S2
reactant | propargyl alcohol | C(C#C)O | C3H4O
reactant | acetone | CC(=O)C | C3H6O
product | 2-benzoxazolinylidene-cyanoacetic acid propargyl ester | C(C#C)OC(C(=C1OC2=C(N1)C=CC=C2)C#N)=O | C13H8N2O3
